US06114532
a. 4-cyclohexylcarbonylamino-2-nitro-fluorobenzene
15.6 g (0.1 mol) of 4-fluoro-3-nitro-aniline and 17.9 g (0.11 mol) of cyclohexylcarboxylic acid chloride are dissolved in 250 ml tetrahydrofuran and after the addition of 12.1 g (0.12 mol) of triethylamine the mixture is stirred for 3 hours at ambient temperature. The solvent is distilled off, the residue is mixed with water and extracted with ethyl acetate. The combined organic extracts are dried over sodium sulphate and concentrated by evaporation.

reactant | 4-fluoro-3-nitro-aniline | 0.1 mol, 15.6 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | cyclohexylcarboxylic acid chloride | 0.11 mol, 17.9 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | triethylamine | 0.12 mol, 12.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-cyclohexylcarbonylamino-2-nitro-fluorobenzene | C1(CCCCC1)C(=O)NC1=CC(=C(C=C1)F)[N+](=O)[O-] | C13H15FN2O3
